US04719312
N-Dodecyl Imidazole
A stirred mixture of 9.96 g. of dodecyl bromide (40 mM), 5.44 g. of imidazole (80 mM), 100 ml. of 0.97N NaOH (97 mM), 100 ml. of PhH, and 336 mg. of Aliquat 336 (1 mM; methyltricaprylylammonium chloride) was refluxed for 23 h. The benzene layer was separated, washed with brine containing a little NaOH, and evaporated. The residue was purified of a little front-running and some origin impurities by quick chromatography on 150 g. of silica gel with 1:1 CH2Cl2 --EtOAc (Rf 0.35), affording 7.48 g. of single-spot material which was distilled at ca. 0.5 Torr (bp 144° C.) to give 6.97 g. of pure product (74%): NMR 7.5 (s, 1H), 7.1 (br s, 1H), 6.95 (br s, 1H), 3.95 (t, J=7 Hz, 2H), 1.85 (m, 2H), 1.3 (s, 18H), 1.0 ppm (m, 3H).

reactant | dodecyl bromide | 40 mM | C(CCCCCCCCCCC)Br | C12H25Br
reactant | imidazole | 80 mM | N1C=NC=C1 | C3H4N2
reactant | NaOH | 0.97N | [OH-].[Na+]
catalyst | Aliquat 336 | 1 mM | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | PhH | C1=CC=CC=C1 | C6H6
product | N-Dodecyl Imidazole | C(CCCCCCCCCCC)N1C=NC=C1 | C15H28N2
